US09023865B2
A flask was charged with the mono-TFA salt of 7-fluoro-3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine (30.0 mg, 0.050 mmol), 1,1′-carbonyldiimidazole (48.7 mg, 0.30 mmol) and imidazole (17.0 mg, 0.25 mmol). The flask was put under an atmosphere of argon and 1,2-dichloroethane was injected (1 mL). The mixture was stirred 3 h at room temperature, warmed to 40° C. for 16 h, allowed to cool to room temperature and treated with (R)-methyl-benzylamine (0.1 mL). The reaction was stirred for 2 hours at room temperature and then diluted with 50% NaHCO3 (3 mL) and EtOAc (5 mL). The organic phase was separated, dried (MgSO4), filtered and concentrated in vacuo. The resulting residue was dissolved in a mixture of DCM, TFA and triethylsilane (3:2:0.1 mL). After 2 h the reaction was filtered, concentrated under reduced pressure and the crude residue was purified by MS-directed reverse phase preparative-HPLC (C-18 stationary phase, eluting with a H2O/MeCN gradient with 0.1% TFA) to yield 1-[7-fluoro-3-(2-methylpyridin-4-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl]-3-[(1R)-1-phenylethyl]urea as a white solid (9 mg, 0.019 mmol, 37%).

reactant | 7-fluoro-3-(2-methylpyridin-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | 0.050 mmol, 30.0 mg | FC=1C2=C(C=NC1N)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C | C31H24FN5
reactant | 1,1′-carbonyldiimidazole | 0.30 mmol, 48.7 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazole | 0.25 mmol, 17.0 mg | N1C=NC=C1 | C3H4N2
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
product | 1-[7-fluoro-3-(2-methylpyridin-4-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl]-3-[(1R)-1-phenylethyl]urea | 0.019 mmol, 9 mg, 37% | FC=1C2=C(C=NC1NC(=O)N[C@H](C)C1=CC=CC=C1)C(=NN2)C2=CC(=NC=C2)C | C21H19FN6O
